US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol
8 g of 4-(4-chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide were dissolved in 30 ml of water and the end product was precipitated by pouring it into 20 ml of a saturated and stirred sodium carbonate solution.

reactant | 4-(4-chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | 8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC(C)C)C)O)S(N)(=O)=O
solvent | water | 30 ml | O | H2O
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC(C)C)C)O)S(N)(=O)=O | C14H20ClN3O3S2
